US06822069B2
(3) Synthesis of 2,3-dihydroxy-5-aminoquinoxaline
2.00 g of 2,3-dihydroxy-5-nitroquinoxaline was dissolved in 1:1 mixed solvent of methanol/dioxane, then the reaction system was sufficiently flushed with argon, and 1.00 g of Pd/C (anhydrous) was added to the reaction mixture. Thereafter, the reaction system was flushed with hydrogen, and reaction was allowed at room temperature for 20 hr. After the reaction was over, the reaction mixture was dispersed in a solution of 6.00 g of potassium carbonate in 130 ml of water, thereby dissolving the reaction product. Filtration was conducted, and 35% hydrochloric acid was gradually added to the solution obtained upon the filtration, to obtain precipitates.

reactant | 2,3-dihydroxy-5-nitroquinoxaline | 2.00 g | OC1=NC2=CC=CC(=C2N=C1O)[N+](=O)[O-] | C8H5N3O4
solvent | methanol dioxane | CO.O1CCOCC1
product | 2,3-dihydroxy-5-aminoquinoxaline | OC1=NC2=CC=CC(=C2N=C1O)N | C8H7N3O2
